US05491132
A solution of (2S,3S)-2-t-butoxycarbonylamino-1-cyclohexyl-5,5-diphenyl-3-hydroxypentane (0.74 g) in acetic acid (50 ml) was hydrogenated over platinum oxide (0.2 g) at 3 atmospheric pressure of hydrogen gas for 2 hours at 37° C. The solution was filtered and concentrated in vacuo to give (2S,3S)-2-t-butoxycarbonylamino-3-hydroxy-1,5,5-tricyclohexylpentane (753 mg) as an oil. Rf: 0.72 (n-hexane:ethyl acetate, 2:1, V/V)

reactant | (2S,3S)-2-t-butoxycarbonylamino-1-cyclohexyl-5,5-diphenyl-3-hydroxypentane | 0.74 g | C(C)(C)(C)OC(=O)N[C@@H](CC1CCCCC1)[C@H](CC(C1=CC=CC=C1)C1=CC=CC=C1)O | C28H39NO3
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | 0.2 g | [Pt]=O
product | (2S,3S)-2-t-butoxycarbonylamino-3-hydroxy-1,5,5-tricyclohexylpentane | 753 mg | C(C)(C)(C)OC(=O)N[C@@H](CC1CCCCC1)[C@H](CC(C1CCCCC1)C1CCCCC1)O | C28H51NO3
